US04639441
p-Nitrobenzyl 2-chloro-2-(4-methylthio-2-azetidinon-1-yl)acetate, a mixture of two isomers
2,6-Lutidine (626 mg) and thionyl chloride (695 mg) were successively added dropwise to a solution of p-nitrobenzyl 2-hydroxy-2-(4-methylthio-2-azetidinon-1-yl)acetate (1.59 g) in tetrahydrofuran (30 ml), whilst stirring at -20° C. The reaction mixture was stirred at -20° to -15° C. for 30 minutes, diluted with ethyl acetate, washed with water (once), neutralized with a dilute aqueous solution of sodium bicarbonate solution and further washed with water.

reactant | 2,6-Lutidine | 626 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | thionyl chloride | 695 mg | S(=O)(Cl)Cl | Cl2OS
reactant | p-nitrobenzyl 2-hydroxy-2-(4-methylthio-2-azetidinon-1-yl)acetate | 1.59 g | OC(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(CC1SC)=O | C13H14N2O6S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-Nitrobenzyl 2-chloro-2-(4-methylthio-2-azetidinon-1-yl)acetate | ClC(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(CC1SC)=O | C13H13ClN2O5S
